US05886044
b) Preparation of N-(2-hydroxy-4fluorophenyl)-N'-phenyl urea
N-(2-Hydroxy-4-fluorophenyl)-N'-phenyl urea was prepared from 2-amino-5-fluoro phenol (200 mg, 1.57 mmol) and phenyl isocyanate according to the procedure in General Method A The product was purified by precipitation from toluene and filtering to afford the titled compound (352 mg, 91%). mp: 195.5°-195.7° C.; 1H NMR (CD3OD/CDCl3): δ7.70 (m, 1H), 7.3 (d, 2H, J=8.25 Hz), 7.15 (t, 2H, J=8.25 Hz), 6.89 (t, 1H, J=8.25 Hz), 6.50-6.38 (m, 2H); EI-MS m/z 246 (M+H)+ ; Anal. (C13H11N2O2F) C, H, N.

reactant | 2-amino-5-fluoro phenol | 1.57 mmol, 200 mg | NC1=C(C=C(C=C1)F)O | C6H6FNO
reactant | phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
product | N-(2-hydroxy-4fluorophenyl)-N'-phenyl urea | 352 mg, 91% | OC1=C(C=CC(=C1)F)NC(=O)NC1=CC=CC=C1 | C13H11FN2O2
